US06313153B1
Synthesis of (E)-N-(3-hydroxyphenethyl)-3-(3-pyridyl)-2-propenoic acid amide (Compound 81)
To a solution of trans-3-(3-pyridyl)acrylic acid (179 g) in dichloromethane (4.8 L), triethylamine (584 ml) and pivaloyl chloride (148 ml) were sequentially added under ice-cooling and stirring and stirred for 15 minutes. Subsequently, 3-hydroxyphenethylamine hydrobromide (263 g) was added at the same temperature and stirred for 2 hours. After the solvent was distilled out under reduced pressure, water was added to the residue and the precipitated crystal was filtered, washed with water and recrystallized in ethanol to yield the titled compound (251.4 g, 78%).

reactant | trans-3-(3-pyridyl)acrylic acid | 179 g | N1=CC(=CC=C1)/C=C/C(=O)O | C8H7NO2
reactant | 3-hydroxyphenethylamine hydrobromide | 263 g | Br.OC=1C=C(CCN)C=CC1
solvent | dichloromethane | 4.8 L | ClCCl | CH2Cl2
solvent | triethylamine | 584 ml | C(C)N(CC)CC | C6H15N
solvent | pivaloyl chloride | 148 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
product | (E)-N-(3-hydroxyphenethyl)-3-(3-pyridyl)-2-propenoic acid amide | 251.4 g, 78% | OC=1C=C(CCNC(\C=C\C=2C=NC=CC2)=O)C=CC1 | C16H16N2O2
